US04533505
3.83 g (20 mmols) of 4-chloroformylcinnamonitrile, 2.70 g (20 mmols) of N-benzyldimethylamine and 0.0448 g (0.2 mmol) of palladium acetate are added under argon to 40 ml of p-xylene. Ethylene is passed through the mixture, which is stirred for 23 hours at 130° C. The reaction mixture is then diluted at 130° C. with 40 ml of p-xylene and is filtered. 10 ml of n-hexane are added to the filtrate. Cooling to room temperature gives 0.39 g (15% of theory) of 4,4'-bis-(2-cyanovinyl)-stilbene, melting point 220° C.

reactant | 4-chloroformylcinnamonitrile | 20 mmols, 3.83 g | ClC(=O)C1=CC=C(C=CC#N)C=C1 | C10H6ClNO
reactant | N-benzyldimethylamine | 20 mmols, 2.70 g | C(C1=CC=CC=C1)N(C)C | C9H13N
reactant | Ethylene | C=C | C2H4
reactant | p-xylene | 40 ml | CC=1C=CC(=CC1)C | C8H10
reactant | p-xylene | 40 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 0.2 mmol, 0.0448 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4,4'-bis-(2-cyanovinyl)-stilbene | 0.39 g, 15% | C(#N)C=CC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=CC#N | C20H14N2
